US08008498B2
6-(4-Benzoyloxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Compound No. 1-3)
6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 4-1, 25.0 mg, 0.0581 mmol) was dissolved in methylene dichloride (0.5 mL), and then triethylamine (16.2 μL, 0.116 mmol) and benzoyl chloride (8.7 μL, 0.075 mmol) were added thereto successively under ice cooling. The reaction mixture was stirred under ice cooling for 30 minutes. The reaction mixture was purified by silica gel column chromatography (hexane-ethyl acetate) to give the titled compound (13.0 mg) as a colorless amorphous product. (Yield 65%)

reactant | 6-(4-Hydroxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC)OC | C27H30N2O3
reactant | triethylamine | 0.116 mmol, 16.2 μL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.075 mmol, 8.7 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene dichloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 6-(4-Benzoyloxy-2-methoxyphenyl)-5-(2-methoxyphenylaminomethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | 13.0 mg, Yield 65% | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)CNC1=C(C=CC=C1)OC)OC | C34H34N2O4
